US07057067B2
2-(1,1-Dimethyl-2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-trifluoromethoxybenzanilide was treated in the same manner as in Example 36, except that the N-bromosuccinimide was replaced with N-chlorosuccinimide, to obtain 3-chloro-2-(1,1-dimethyl-2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-trifluoromethoxybenzanilide (yield 63%, melting point 197° C.). Regioselectivity of chlorination into the 3-position was 100%.

reactant | 2-(1,1-Dimethyl-2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-trifluoromethoxybenzanilide | CC(C=NOC)(C)NC(=O)C1=C(C(=O)NC2=C(C=C(C=C2)OC(F)(F)F)C)C=CC=C1 | C21H22F3N3O4
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 3-chloro-2-(1,1-dimethyl-2-(N-methoxyimino)ethylaminocarbonyl)-2′-methyl-4′-trifluoromethoxybenzanilide | yield 63% | ClC=1C(=C(C(=O)NC2=C(C=C(C=C2)OC(F)(F)F)C)C=CC1)C(=O)NC(C=NOC)(C)C | C21H21ClF3N3O4
